US09023879B2
Preparation of 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzamide (Compound (MII))
A solution of methyl 2-(4-carbamoyl-3-fluorophenylamino)-2-methylpropanoate and 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile (1.5 equivalents) in dry DMSO (5 mL per mmol) was heated to 80-82° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic layer was concentrated under reduced pressure and the residue was purified by silica gel chromatography eluting with 40% Acetone-Hexanes. MS (m/z): 451 (M+1). HPLC: Column, YMC ODS A, 4.6×150 mm, 5 μm, Mobile Phase A: 10 mM Ammonium acetate, Mobile Phase B: Acetonitrile, Gradient, 10% B up to 2 min, 10% to 90% B in 3 min, hold for 3 min, 90% to 10% B in 5 min, Retention time, 2.782 min, HPLC Purity, 99.4%, Flow Rate, 1 mL/min. 1H NMR (CDCl3, Freebase): δ (ppm) 8.3 (t, 1H), 8.0 (d, 1H) 7.98 (s, 1H), 7.8 (d, 1H), 7.27 (d, 1H), 7.2 (d, 1H), 6.65 (d, 1H), 6.0 (s, 1H), 1.62 (s, 6H).

reactant | methyl 2-(4-carbamoyl-3-fluorophenylamino)-2-methylpropanoate | C(N)(=O)C1=C(C=C(C=C1)NC(C(=O)OC)(C)C)F | C12H15FN2O3
reactant | 2-(trifluoromethyl)-4-isothiocyanatobenzonitrile | 1.5 equivalents | FC(C1=C(C#N)C=CC(=C1)N=C=S)(F)F | C9H3F3N2S
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(4-cyano-3-(trifluoromethyl)phenyl)-5,5-dimethyl-4-oxo-2-thioxoimidazolidin-1-yl)-2-fluorobenzamide | C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C)C)C1=CC(=C(C(=O)N)C=C1)F)=S)C(F)(F)F | C20H14F4N4O2S
